US06034272
N-[4-[(Aminothioxomethyl)hydrazono]-4-phenylbutyl]acetamide
Thiosemicarbazide (2.85 g, 31.3 mmol) was added to a solution of N-(4-oxo-4-phenyl-butyl)-acetamide (4.28 g, 20.9 mmol), prepared in the previous step, in 75 ml of methanol plus 5.6 ml of 1 N HCl, plus 5.6 ml of water and the reaction stirred at room temperature for 42 hours. The reaction was concentrated under reduced pressure to remove the methanol. The residue was partitioned between methylene chloride and water. The organic layer was separated, washed five times with water, dried (MgSO4) and the solvent removed under reduced pressure to give 4.77 g of a yellow solid Recrystallization of this solid from ethyl acetate gave the title compound (3.53 g, 61%) as an off-white solid, mp 74-83° C.

reactant | Thiosemicarbazide | 31.3 mmol, 2.85 g | NNC(=S)N | CH5N3S
reactant | N-(4-oxo-4-phenyl-butyl)-acetamide | 20.9 mmol, 4.28 g | O=C(CCCNC(C)=O)C1=CC=CC=C1 | C12H15NO2
reactant | HCl | 1 N, 5.6 ml | Cl | ClH
reactant | water | 5.6 ml | O | H2O
solvent | methanol | 75 ml | CO | CH4O
product | N-[4-[(Aminothioxomethyl)hydrazono]-4-phenylbutyl]acetamide | 3.53 g, 61% | NC(=S)NN=C(CCCNC(C)=O)C1=CC=CC=C1 | C13H18N4OS
